US06596868B2
The [1RS-(2-exo,3-exo)]-3-(4-chlorophenyl)-8-methyl-8-azabicyclo[3.2.1]octane-2-carbonyl chloride 21 obtained in Example 17 was dissolved in 10 ml of dichloromethane, and the solution was cooled to −10° C. A solution of 197 mg (1 mmol) of 4-methoxybenzylthioethylamine in 10 ml of dichloromethane and then 0.28 ml (2 mmol) of triethylamine were added thereto under nitrogen, and the resulting mixture was stirred at room temperature for 6 hours. Thereafter, 20 ml of water was added thereto and the desired compound was extracted three times with dichloromethane. The combined organic layer was dried over sodium sulfate and then distilled to remove the solvent. The oil thus obtained was purified by silica gel column chromatography (eluent: ethyl acetate/methanol/aqueous ammonia=8.5/1/0.5) to obtain [1RS-(2-exo,3-exo)]-3-(4-chlorophenyl)-N-[2-[S-(4-methoxybenzyl)thio]ethyl]-8-methyl-8-azabicyclo[3.2.])-octane-2-carboxamide as an oil.

reactant | 4-methoxybenzylthioethylamine | 1 mmol, 197 mg | COC1=CC=C(CSCCN)C=C1 | C10H15NOS
reactant | triethylamine | 2 mmol, 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | octane-2-carboxamide | CC(CCCCCC)C(=O)N | C9H19NO
